US04870096
Ethyl 4-[[(1-oxo-2-propenyl)amino]methyl]benzeneacetate
A solution of Ethyl 4-[aminomethyl]benzeneacetate (4.12 g) in anhydrous dichloromethane (60 ml) containing triethylamine (3.0 ml), was added over 20 min to a cold (-15°) stirred solution of acryloyl chloride (1.73 ml) in dry dichloromethane (50 ml) and stirring was continued for 0.75 h. After washing the dichloromethane solution with 8% aqueous sodium bicarbonate soln (2×50 ml) and drying (MgSO4), the organic solvent was removed by rotary evaporation to yield a a solid (approximately 6 g) which was triturated with cyclohexane to give the title compound as a solid (4.1 g) m.p. 93°-95°.

reactant | Ethyl 4-[aminomethyl]benzeneacetate | 4.12 g | NCC1=CC=C(C=C1)CC(=O)OCC | C11H15NO2
reactant | triethylamine | 3.0 ml | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 1.73 ml | C(C=C)(=O)Cl | C3H3ClO
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Ethyl 4-[[(1-oxo-2-propenyl)amino]methyl]benzeneacetate | approximately 6 g | O=C(C=C)NCC1=CC=C(C=C1)CC(=O)OCC | C14H17NO3
